US06936607B2
8-(2,6-DICHLORO-4-PYRIMIDINYL)-1,4-DIOXA-8-AZASPIRO[4.5]DECANE:
1,4-dioxa-8-azaspiro[4.5]decane (19.52 g, 136.3 mmol) was added to a solution of 2,4,6-trichloropyrimidine (25.0 g, 136 mmol) in CH2Cl2 (475 mL) at −78° C. with vigorous stirring. Diisopropylethylamine (26.4 g, 205 mmol) was added dropwise to the above mixture and stirred for 3 hours at −78° C. The resulting mixture was brought to 0° C. over a period of 3 hours and quenched with water (250 mL). The organic layer was separated, washed with aqueous citric acid (2×100 mL), brine (2×200 mL), dried over anhydrous Na2SO4 and concentrated in vacuo. The crude product was purified by column chromatography [eluent: EtOAc/hexanes (1:9)], giving the desired product (7.40 g, 19%).

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 136.3 mmol, 19.52 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 2,4,6-trichloropyrimidine | 136 mmol, 25.0 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | Diisopropylethylamine | 205 mmol, 26.4 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 475 mL | C(Cl)Cl | CH2Cl2
product | 8-(2,6-DICHLORO-4-PYRIMIDINYL)-1,4-DIOXA-8-AZASPIRO[4.5]DECANE | 7.40 g, 19% | ClC1=NC(=CC(=N1)N1CCC2(OCCO2)CC1)Cl | C11H13Cl2N3O2
